US06969711B2
Preparation of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(4-acetoxy-2,6-diisopropylphenyl)acetamide:
Acetic anhydride (2 ml) was dropped into a solution of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-4-hydroxyphenyl)acetamide (149 mg, 0.3 mmol) in pyridine (1 ml) with ice cooling and the mixture was stirred at room temperature for 3 hours. The reaction solution was neutralized by adding a saturated aqueous solution of sodium bicarbonate thereto and extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride solution successively and dried over sodium sulfate and the solvent was evaporated therefrom. The residue was purified by a silica gel column chromatography (developing solvent, chloroform:methanol=20:1) to provide 166 mg (yield 100%) of the desired compound as colorless needles.

reactant | Acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-4-hydroxyphenyl)acetamide | 0.3 mmol, 149 mg | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC2=C(C=C(C=C2C(C)C)O)C(C)C | C27H36N4O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(4-acetoxy-2,6-diisopropylphenyl)acetamide | 166 mg, yield 100% | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC2=C(C=C(C=C2C(C)C)OC(C)=O)C(C)C | C29H38N4O4S
